US04215044
A solution of butyllithium in hexane (0.4 mol, 250 ml of 1.6 M solution) was added to a solution of 40 g (0.4 mol) of diisopropylamine in 300 ml of tetrahydrofuran cooled in an ice-bath. A solution of 27.23 g (0.2 mol) of benzeneacetic acid in 200 ml of tetrahydrofuran was added near 0° C. and the reaction mixture was stirred for 30 minutes at 0° C. A 100 g portion of trimethylchlorosilane was added, the mixture was warmed to room temperature, stirred for 1.5 hours, and then filtered under nitrogen. The filtrate was evaporated to dryness under reduced pressure; the residue was dissolved in 80 ml of diethyl ether and filtered. The filtrate was evaporated to dryness and then distilled to give 37.2 g of β,β-[bis(trimethylsiloxy]styrene as a colorless liquid: bp 95° C. (0.5 mm).

reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 0.4 mol, 1.6 M, 250 ml | CCCCCC | C6H14
reactant | diisopropylamine | 0.4 mol, 40 g | C(C)(C)NC(C)C | C6H15N
reactant | benzeneacetic acid | 0.2 mol, 27.23 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | bis(trimethylsiloxy]styrene | 37.2 g | C[Si](OC(=CC1=CC=CC=C1)O[Si](C)(C)C)(C)C | C14H24O2Si2
